US04525294
Synthesis of N-sec. Butyl Alanine
356 g of alanine (4 mols) is dissolved in 1.5 liters of deionized water and put into a 1-gallon autoclave. 25 g of 10% Pd on carbon, wet with water, 423 g of methylethylketone (5.85 mols) and 250 ml of ethanol are added. The autoclave is closed and hydrogenation is carried out at 90°-105° C. and 63.3-77.3 kg/cm2. A pressure drop corresponding to 83.3 kg/cm2 is observed in the course of 4 hours. The autoclave is allowed to cool overnight.

reactant | alanine | 4 mols, 356 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | methylethylketone | 5.85 mols, 423 g | CC(=O)CC | C4H8O
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 1.5 liters | O | H2O
catalyst | Pd on carbon | 25 g | [Pd] | Pd
product | N-sec. Butyl Alanine | C(C)(CC)N[C@@H](C)C(=O)O | C7H15NO2
